US06451500B1
A] 3-Methylbenzyl bromide (24.64 g, 1.33×10−1 mol, Aldrich) was dissolved in 221 g of diethyl ether in a 500 ml round bottomed flask. A 33% (w/w) solution of trimethylamine in methanol (35.80 g, 2.00×10−1 mol, Acros) was added all at once, forming a white precipitate almost immediately. The reaction mixture was allowed to stir overnight at room temperature and was then filtered and washed three times with diethyl ether. The resulting white powder was dried in a vacuum oven overnight to afford 29.38 g (90% yield) of 3-methylbenzyl trimethylammonium bromide.

reactant | 3-Methylbenzyl bromide | 1.33×10−1 mol, 24.64 g | CC=1C=C(CBr)C=CC1 | C8H9Br
reactant | trimethylamine | CN(C)C | C3H9N
reactant | methanol | 2.00×10−1 mol, 35.80 g | CO | CH4O
solvent | diethyl ether | 221 g | C(C)OCC | C4H10O
product | 3-methylbenzyl trimethylammonium bromide | 29.38 g, 90% yield | [Br-].CC=1C=C(C[N+](C)(C)C)C=CC1 | InChI=1S/C11H18N.BrH/c1-10-6-5-7-11(8-10)9-12(2,3)4;/h5-8H,9H2,1-4H3;1H/q+1;/p-1
